US07585880B2
N-(2-phenylethyl)-4-pyridin-2-yl-1,3-thiazole-2-amine
A mixture of 2-bromo-1-pyridin-2-ylethanone hydrobromide (4.00 g), N-(2-phenylethyl)thiourea (3.60 g), sodium acetate (1.60 g) and ethanol (30 mL) was stirred with heating under reflux for 1 hr. After cooling, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9-2:1 in volume ratio) to give the title compound (2.71 g, yield 48%) as a yellow oil.

reactant | 2-bromo-1-pyridin-2-ylethanone hydrobromide | 4.00 g | Br.BrCC(=O)C1=NC=CC=C1
reactant | N-(2-phenylethyl)thiourea | 3.60 g | C1(=CC=CC=C1)CCNC(=S)N | C9H12N2S
reactant | sodium acetate | 1.60 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | N-(2-phenylethyl)-4-pyridin-2-yl-1,3-thiazole-2-amine | 2.71 g, yield 48% | C1(=CC=CC=C1)CCNC=1SC=C(N1)C1=NC=CC=C1 | C16H15N3S
